US04205074
3-Diphenylmethylenequinolizidine methyl iodide:
In 30 ml. of methanol was dissolved 2.0 g. of 3-diphenylmethylenequinolizidine. After adding 1.5 ml. of methyl iodide to the solution, the mixture was stirred at room temperature for 24 hrs. After completion of the reaction, the solvent was distilled off and the resulting crystals were recrystallized from acetone to obtain 1.6 g. of colorless prisms showing a melting point of 221° to 224° C.

reactant | 3-diphenylmethylenequinolizidine | C1(=CC=CC=C1)C(=C1CCC2CCCCN2C1)C1=CC=CC=C1 | C22H25N
reactant | methyl iodide | CI | CH3I
solvent | methanol | CO | CH4O
product | 3-Diphenylmethylenequinolizidine methyl iodide | CI.C1(=CC=CC=C1)C(=C1CCC2CCCCN2C1)C1=CC=CC=C1 | InChI=1S/C22H25N.CH3I/c1-3-9-18(10-4-1)22(19-11-5-2-6-12-19)20-14-15-21-13-7-8-16-23(21)17-20;1-2/h1-6,9-12,21H,7-8,13-17H2;1H3
